data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,4265,"CCC(=O)O[C:1](CC)=[O:2].[OH-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2915,"CSC(OC(=O)C(F)(F)F)C(OCC1=CC=CC=C1)C1OC(C)(C)OC1C(OCC1=CC=CC=C1)[CH:1]=[S+:2]C.O=C(C(F)(F)F)[O-:3].O=C(O)C(F)(F)F|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,8413,"C[C:1](=[N:2][OH2+:3])[C:4](C)(C)C.O=S(=O)([O-])O|((1, 4), 2);((2, 3), 3)"
train,pmechdb_split_0,0,7649,"CCCCCC(C)(C(=O)C1CCCC2=C(C=CC=C2)C1=O)[O:1][P:2](C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)[O-:3].O|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8045,"CCOC(=O)CCC(C)(OCC)[OH:1].O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,8528,"CCOC(=O)C#CC1=CC=CC=C1.CCOC(=O)C=CC1=CC=CC=C1.CCOC(=O)[CH:1]([H:2])[C:3](OCC)=[O:4].CO.C[O:5][Na]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,3210,"CCOC(C[NH+:1](C(COCC1=CC=CC=C1)C1=C2OCOC2=C(C)C(OC)=C1)[H:2])OCC.O=C([O][K])[O-:3].[Br-].[K+]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,93,"C[C+:1](C)C.[Br-:2]|(2, 1)"
train,pmechdb_split_0,0,3615,"CC(=O)OC(C)(O)[OH+:1][H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3269,"CC(C(C)[O-:1])[Si:2](C)(C)C.[H][H].[K+]|(1, 2)"
train,pmechdb_split_0,0,1060,"CC1(C2=CC(C#N)=CC=C2)OCC[O+:1]1[H:2].CCOCC.F[B-](F)(F)[OH:3].OCCO|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8448,"C[Si](C)(C)C=[C:1]=[CH2:2].C[Si](C)(C)[O+:3](C)[Br:4]|((1, 2), 4);((4, 3), 3)"
train,pmechdb_split_0,0,6997,"O=C(NCCC=C1C2=C(C=CC=C2)COC2=C1C=CC=C2)[O:1][CH2:2][C:3](Cl)(Cl)[Zn:4][Cl].[OH3+]|((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,1129,"CC(=O)C1=CC2=C(C=C1)C=C[CH+:1][C:2]2(S(=O)(=O)O)[H:3].O=S(=O)(O)[O-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,9994,"CC1=CO[CH:1]=[CH:2]1.C[CH+:3]C|((2, 1), 3)"
train,pmechdb_split_0,0,6694,"CC(=O)O.COC1=CC=C(C2C(=CC3=CC=C(O)C=C3)[C:1](=[O:2])C(=O)N2C2=CC=CC=C2)C=C1.OC1=C([NH2:3])C=CC=C1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,5443,"O=S(=O)(O)C1=CC=C[C:1](S(=O)(=O)O)([H:2])[CH+:3]1.O=S(=O)(O)[O-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,7970,"CC(=O)[O:1][C:2](C)(O)[OH:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1496,"ClC1=NC=CC=C1N=N[OH:1].[Br-].[H:2][OH2+:3].[Na+]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,9130,"O=S(=O)(O)[O-:1].OCCC(CO)[O+:2](CCC1CO1)[H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,4650,"C[Si](C)(C)OCC#[C-:1].[CH3:2][Br:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,5340,"CC1=CC=CC(C)=[NH+]1.C[Si:1](C)(C)OS(=O)(=O)C(F)(F)F.C[Si](C)(C)OC1=C2C(=CC=C1)C1(CC=C2[O-:2])OC2=CC=CC3=CC=CC(=C32)O1.O=S(=O)([O-])C(F)(F)F|(2, 1)"
train,pmechdb_split_0,0,8780,"CC[CH:1]=[O:2].[H:3][AlH3-:4]|((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,921,"CO.COC1=C(O)C2=C(C=C1)CC1C3C[CH+:1][C:2](O)=[CH:3]C23CCN1C1=CC=CC=C1.CS(=O)(=O)O.CS(=O)(=O)[O-]|((3, 2), 1)"
train,pmechdb_split_0,0,5518,"CC(C)=O.CC1=CC=C(C2CCC3(CC2)OCC[O:1]3)C=C1.CC1=CC=C(S(=O)(=O)[O:2][H:3])C=C1.O|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,8634,"CC(C)C1CCC2C3CCC4=CC=CC=C4C3C(=O)CC12[O-:1].CC(C)C1CC[CH:2]([H:3])[C:4]1=[O:5]|(1, 3);((3, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,4743,"[CH2:1]=[OH+:2].[Cl-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,8344,"COC1=C2OC3C45CCNC(CC(=C24)C=C1)C5(O)CCC3([NH2+]N)[O-:1].OCCOCCO.[H:2][OH:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,5161,"CC1=CC=C(S(=O)(=O)[O-])C=C1.CCCCCC1=CC(O)=C(CC=C(C)C)[C:1](=[OH+:2])[C:3]1(CC=C(C)C)[H:4].[OH2:5]|(5, 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,2759,"C1[CH2:1][O:2]1.CN(C)[C:3](=[CH2:4])[O-:5]|(5, 3);((3, 4), 1);((1, 2), 2)"
train,pmechdb_split_0,0,4680,"CC1CC(C2=CC=CC=C2)[CH:1]=[C:2]1C.[H:3][Cl:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,4690,"C1=CC=C([S-:1])C=C1.CCC1CC[CH:2]=[CH:3]C1=O|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,8346,"BrC1=CC=C([CH:1]=[O:2])C=C1.O=C(N[NH2:3])C1=CC=CC=C1.O=C(O)C(F)(F)F|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,5960,"CC(C)[O-].CCCCCC1CC(CC)CC[C:1]1([H:2])[O:3][Al-]([O]C(C)C)([O]C(C)C)[O+:4]=[C:5](C)C|(3, 1);((1, 2), 5);((5, 4), 4)"
train,pmechdb_split_0,0,6349,"CC(=O)CCC(=O)C1=CC(C(=O)CCC(C)=O)=CC([C:1]2([OH2+:2])CC=C(C)[NH:3]2)=C1.CC(=O)[O-].O.O=C[O-]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,7186,"CC1=CC=C(S(=O)(=O)N2C=C(C=N[N:1](S(=O)(=O)C3=CC=C(C)C=C3)[H:2])C3=CC=CC=C32)C=C1.[Li][O:3]C(C)(C)C|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7825,"CC(C)[N:1]([Li-][O+:2]=[C:3]1C(C)(CO[Si](C)(C)C(C)(C)C)C2CCC3(C)C4=COC=C4CCC3C2(C)C[CH:4]1[H:5])C(C)C|(1, 5);((5, 4), 3);((3, 2), 2)"
train,pmechdb_split_0,0,897,"C1=CC=C(CN2CCC3([OH:1])OC(C4=CC=CC=C4)=CC3C2)C=C1.[Cl-].[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,4529,"CS(=O)(=O)C1=CC=C(C2=CC=C([NH+:1](N=O)[H:2])C=C2)C=C1.O.O=S(=O)([O-])[O-:3].[Na+]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3150,"COC1([OH+:1][H:2])CCC2C(CC2(C)C)C2CCC1C2.[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8752,"CC(C)O[B-:1](OC(C)C)(C1=C(Cl)N=CC=C1)[O:2]C(C)C.[Li+].[Na+].[OH-]|((1, 2), 2)"
train,pmechdb_split_0,0,688,"CC(=O)NC(C)=O.C[Si:1](C)(C)C1=C(OS(=O)(=O)C(F)(F)F)C=CC=C1.[F-:2]|(2, 1)"
